US04229575
3-[(Acetyloxy)methyl]-7-[[carboxy(2,3-dihydro-5-benzofuranyl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
α-Carboxy-(2,3-dihydro-5-benzofuranyl)acetic acid (14 mmole) is added to 50 ml of ether. Thionyl chloride (14.5 mmole) is added along with 1 drop of dimethylformamide. This mixture is refluxed about 3 hours and then evaporated under reduced pressure at room temperature. The residue is added to 50 ml of ether which is added to an ice-cold mixture of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (14 mmole), 30 ml of water 15 ml of ether, 14 mmole of triethylamine. After 30 minutes the pH is adjusted to 1.5 with dilute hydrochloric acid and the layers separated. The ether is extracted with water. Evaporation of the ether gives a residue which is taken up in ethyl acetate, dried, filtered and evaporated to give the title compound.

reactant | α-Carboxy-(2,3-dihydro-5-benzofuranyl)acetic acid | 14 mmole | C(=O)(O)C(C(=O)O)C=1C=CC2=C(CCO2)C1 | C11H10O5
reactant | Thionyl chloride | 14.5 mmole | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 14 mmole | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | triethylamine | 14 mmole | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-[(Acetyloxy)methyl]-7-[[carboxy(2,3-dihydro-5-benzofuranyl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(C=1C=CC2=C(CCO2)C1)C(=O)O)=O)=O)C(=O)O | C21H20N2O9S
